US04146631
N,N'-Dicyclohexylcarbodiimide (1.03 g) was added to a solution of 2-benzyloxy-5-trifluoromethylbenzoic acid (1.48 g) and anhydrous 5-aminotetrazole (0.425 g) in dry pyridine (25 ml), and the resulting mixture was stirred at room temperature for 20 hours. The pyridine was removed in vacuo and the residue was treated with ammonia solution (4N; 75 ml) and stirred for one hour. The insoluble N,N'-dicyclohexylurea was filtered off, and the filtrate was acidified by treatment with concentrated hydrochloric acid. The precipitated solid was recrystallized from ethanol to give 2-benzyloxy-5-trifluoromethyl-N-(tetrazol-5-yl)benzamide (1.25 g), m.p. 248°-249° C. (with decomposition).

reactant | N,N'-Dicyclohexylcarbodiimide | 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-benzyloxy-5-trifluoromethylbenzoic acid | 1.48 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C15H11F3O3
reactant | 5-aminotetrazole | 0.425 g | NC1=NN=NN1 | CH3N5
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 2-benzyloxy-5-trifluoromethyl-N-(tetrazol-5-yl)benzamide | 1.25 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=NN=NN2)C=C(C=C1)C(F)(F)F | C16H12F3N5O2
